US07087601B2
Polyphosphoric acid (100 mL) was added to a beaker containing 2-aminophenol (17.7 g, 162 mmol) and 4-bromo-3-methylbenzoic acid (13.6 g, 64 mmol). The mixture was heated at 200° C. for 1 h, then poured into ice water (1 L) and allowed to stand overnight. The mixture was filtered and dried to afford 2-(4-bromo-3-methyl(phenyl))-benzoxazole as a colorless solid. A solution of 2-(4-bromo-3-methyl(phenyl))-benzoxazole (670 mg, 2.3 mmol), 2-(tributylstannyl)pyridine (850 mg, 2.3 mmol), Pd(Ph3P)4 (270 mg, 0.23 mmol) and DMF (23 mL) was degassed with bubbling argon for 15 min. The reaction mixture was heated at 100° C. for 8 h. The reaction was cooled to rt, and KF (500 mg) and H2O (250 mL) were added. The mixture was extracted with MTBE (3×50 mL), and the combined organic extracts were washed with water (2×20 mL), brine (1×20 mL), dried (MgSO4), and concentrated to afford an oil. Purification of the oil by flash chromatography on silica gel (EtOAc:hexanes 1:2) afforded the desired 2-(3-methyl-4-pyridin-2-ylphenyl)-1,3-benzoxazole as a colorless solid: 1H NMR (CDCl3, 300 MHz) δ 8.91 (d, 1H), 8.52 (t, 1H), 8.19 (s, 1H), 8.15 (d, 1H), 7.97 (br t, 1H), 7.89 (d, 1H), 7.70–7.72 (m, 1H), 7.61 (d, 1H), 7.51–7.54 (m, 1H), 7.30–7.33 (m, 2H), 2.45 (s, 3H), MS (ESI) 287 (M+H)+.

reactant | 2-aminophenol | 162 mmol, 17.7 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | 4-bromo-3-methylbenzoic acid | 64 mmol, 13.6 g | BrC1=C(C=C(C(=O)O)C=C1)C | C8H7BrO2
product | 2-(4-bromo-3-methyl(phenyl))-benzoxazole | BrC1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)C | C14H10BrNO
